US05541339
5,5'-[1H-pyrrole-2,5-diylbis(carbonylimino)-bis-1H-indole-2-carboxylic acid diethyl ester (42 mg, 08 mM) is dissolved in pyridine (1 mL) and the solution treated with N NaOH (0.2 mL). After 24 hrs the reation is treated with additional N NaOH (0.4 mL). After an additional 96 hrs the reaction is evaporated in vacuo and the residue dissolved in water (5 mL). The aqueous solution is acidified with N HCl to pH 2 and then freeze-dried, leaving 5,5'-[1H-pyrrole-2,5-diylbis(carbonylimino)-bis-1H-indole-2-carboxylic acid.

reactant | 1H-pyrrole-2,5-diylbis(carbonylimino)-bis-1H-indole-2-carboxylic acid diethyl ester | 42 mg | C(C)OC(=O)C=1N(C2=CC=CC=C2C1)NC(=O)C1=CC=C(N1)C(=O)NN1C(=CC2=CC=CC=C12)C(=O)OCC | C28H25N5O6
reactant | NaOH | 0.2 mL | [OH-].[Na+]
reactant | NaOH | 0.4 mL | [OH-].[Na+]
solvent | pyridine | 1 mL | N1=CC=CC=C1 | C5H5N
product | 1H-pyrrole-2,5-diylbis(carbonylimino)-bis-1H-indole-2-carboxylic acid | N1C(=CC=C1C(=O)NN1C(=CC2=CC=CC=C12)C(=O)O)C(=O)NN1C(=CC2=CC=CC=C12)C(=O)O | C24H17N5O6
